US03931181
A mixture of 12 g. of 4-(chloroformyl)-2,6-diethoxy-benzoic ethyl ester, 1.4 g. of palladium/barium sulfate catalyst (5%) and 0.2 ml. of quinoline sulfur regulator are heated under an atmosphere of nitrogen at 120° with stirring. Thereafter, hydrogen is passed through the reaction mixture at 120° until 90% of the theoretical amount of acid salt is freed. The reduction is stopped, and the suspension under an atmosphere of nitrogen is cooled to 25°. The catalyst is removed by filtration and the filtrate is evaporated to dryness under vacuum, whereby there is obtained 2,6-diethoxy-4-formylbenzoic acid ethyl ester as a colorless oil. A sample after recrystallization from low boiling petroleum ether yields pure 2,6-diethoxy-4-formylbenzoic acid ethyl ester having a m.p. of 45°-46°.

reactant | 4-(chloroformyl)-2,6-diethoxy-benzoic ethyl ester | C(C)OC(C1=C(C=C(C=C1OCC)C(=O)Cl)OCC)=O | C14H17ClO5
reactant | quinoline sulfur | [S].N1=CC=CC2=CC=CC=C12
reactant | hydrogen | [H][H] | H2
catalyst | palladium/barium sulfate | [Pd] | Pd
product | 2,6-diethoxy-4-formylbenzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1OCC)C=O)OCC)=O | C14H18O5
